US05412100
A solution of 2.34 g (0.015 mol) of bromine in 5 ml of glacial acetic acid is added dropwise with stirring in the course of 45 minutes at room temperature to a mixture of 4.5 g (0.013 mol) of methyl N-[4-(4-bromophenyl)-thiazol-2-yl]-N-methylaminoacetate and 2.5 g (0.03 mol) of sodium acetate in 30 ml of glacial acetic acid, the mixture is subsequently stirred with an excess of aqueous saturated sodium hydrogen carbonate solution, and the precipitate which has separated out is filtered off with suction. After drying, 5.4 g (97% of theory) of methyl N-[5-bromo-4-(4-bromophenyl)-thiazol-2-yl]-N-methylaminoacetate are obtained as an oil.

reactant | bromine | 0.015 mol, 2.34 g | BrBr | Br2
reactant | methyl N-[4-(4-bromophenyl)-thiazol-2-yl]-N-methylaminoacetate | 0.013 mol, 4.5 g | BrC1=CC=C(C=C1)C=1N=C(SC1)N(C)CC(=O)OC | C13H13BrN2O2S
reactant | sodium acetate | 0.03 mol, 2.5 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | methyl N-[5-bromo-4-(4-bromophenyl)-thiazol-2-yl]-N-methylaminoacetate | 5.4 g, 97% | BrC1=C(N=C(S1)N(C)CC(=O)OC)C1=CC=C(C=C1)Br | C13H12Br2N2O2S
